US07307084B2
AD. 7-Benzyloxy-3-methyl-2-trifluoromethyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide
15.8 g (41.0 mmol) 4-Benzyloxy-6-bromo-1-methyl-2-trifluoromethyl-1H-benzimidazole, 6.4 g (24.6 mmol) triphenylphosphine, 1.4 g (6.2 mmol) palladium(II) acetate and 205 ml (410 mmol) dimethylamine (2 M in THF) were transferred to an autoclave and carbonylated (6 bar CO2) at 120° C. for 16 h. The catalyst was filtered off and the filtrate was concentrated in vacuo. Purification of the residue by column chromatography on silica gel (dichloromethane/methanol=50:1) afforded 9.3 g (62%) of the title compound as a white solid. m.p. 144°-146° C.

reactant | 4-Benzyloxy-6-bromo-1-methyl-2-trifluoromethyl-1H-benzimidazole | 41.0 mmol, 15.8 g | C(C1=CC=CC=C1)OC1=CC(=CC=2N(C(=NC21)C(F)(F)F)C)Br | C16H12BrF3N2O
reactant | triphenylphosphine | 24.6 mmol, 6.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethylamine | 410 mmol, 2 M, 205 ml | CNC | C2H7N
reactant | CO2 | C(=O)=O | CO2
catalyst | palladium(II) acetate | 6.2 mmol, 1.4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Benzyloxy-3-methyl-2-trifluoromethyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 9.3 g, 62% | CN(C(=O)C1=CC2=C(N=C(N2C)C(F)(F)F)C(=C1)OCC1=CC=CC=C1)C | C19H18F3N3O2
